US07507740B2
(i) Production of ethyl 3-(4-chloro-5H-pyrrolo[3,2-d]pyrimidin-5-yl)propanoate
4-Chloro-5H-pyrrolo[3,2-d]pyrimidine (303 mg) was dissolved in N,N-dimethylformamide (9 mL), ethyl acrylate (0.3 mL) and potassium carbonate (538 mg) were sequentially added, and the mixture was stirred at room temperature for 7.5 hrs. Ethyl acrylate (0.2 mL) was added, and the mixture was stirred for 16 hrs. Ethyl acrylate (0.3 mL) and potassium carbonate (526 mg) were further added, and the mixture was stirred for 6 hrs. The reaction mixture was treated with saturated aqueous ammonium chloride solution and the mixture was extracted with ethyl acetate. The organic layer washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was separated and purified by silica gel column chromatography (eluent, hexane:ethyl acetate=66:34→20:80) to give the title compound (404 mg) as a colorless oil.

reactant | 4-Chloro-5H-pyrrolo[3,2-d]pyrimidine | 303 mg | ClC=1C2=C(N=CN1)C=CN2 | C6H4ClN3
reactant | ethyl acrylate | 0.3 mL | C(C=C)(=O)OCC | C5H8O2
reactant | potassium carbonate | 538 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Ethyl acrylate | 0.2 mL | C(C=C)(=O)OCC | C5H8O2
reactant | Ethyl acrylate | 0.3 mL | C(C=C)(=O)OCC | C5H8O2
reactant | potassium carbonate | 526 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 9 mL | CN(C=O)C | C3H7NO
product | ethyl 3-(4-chloro-5H-pyrrolo[3,2-d]pyrimidin-5-yl)propanoate | 404 mg | ClC=1C2=C(N=CN1)C=CN2CCC(=O)OCC | C11H12ClN3O2
